US05654316
3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-(phenylmethyl)benzenepropanamide
3,4-Dichloro-beta-[2-[(phenylmethyl)methylamino]-2-oxoethyl]benzenepropanoic acid (6.9 g) in EtOAc (150 mL) was treated with carbonyldiimidazole (4.4 g) and N,N-dimethylaminopyridine (0.22 g). The resulting solution was stirred at room temperature for 15 minutes and then heated at 50° C. for 1 hour. The reaction mixture was cooled to 0° C. and treated with a solution of NaBH4 (4.46 g) in H2O (75 mL), warmed slowly to room temperature and stirred for 12 hours. The reaction mixture was then diluted with EtOAc (250 mL) and washed with 1N HCl (250 mL), H2O (250 mL) and dried over MgSO4, filtered and concentrated under reduced pressure to yield the title compound (6.29 g).

reactant | 3,4-Dichloro-beta-[2-[(phenylmethyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 6.9 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)N(C)CC1=CC=CC=C1 | C19H19Cl2NO3
reactant | carbonyldiimidazole | 4.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NaBH4 | 4.46 g | [BH4-].[Na+]
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 75 mL | O | H2O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-(phenylmethyl)benzenepropanamide | 6.29 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(CC1=CC=CC=C1)C)CCO | C19H21Cl2NO2
